US08097610B2
Preparation of [3-[[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamino]methyl]phenyl]acetic acid methyl ester
A mixture of [1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamine (159 mg), (3-bromomethylphenyl)acetic acid methyl ester (138 mg), potassium carbonate (107 mg) and dimethylformamide (2 mL) was stirred at 80° C. for 8 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (90 mg). Yield: 37%.

reactant | [1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamine | 159 mg | ClC1=CC2=C(N=C(S2)N2CCC(CC2)NC(C)C)C=C1 | C15H20ClN3S
reactant | (3-bromomethylphenyl)acetic acid methyl ester | 138 mg | COC(CC1=CC(=CC=C1)CBr)=O | C10H11BrO2
reactant | potassium carbonate | 107 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-[[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamino]methyl]phenyl]acetic acid methyl ester | 90 mg, Yield: 37% | COC(CC1=CC(=CC=C1)CN(C(C)C)C1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)=O | C25H30ClN3O2S
